US06284912B1
Synthesis of methyl-(S)-2-(2-naphthalenesulfonylamino)-3-(4-hydroxyphenyl)propionate
Methyltyrosinate(1 g, 4.32 mmol) was suspended in 5 ml of methylene chloride, pyridine(1.4 ml, 17.28 mmol) was added thereto, and the reaction mixture was allowed to stand until the mixture became thoroughly transparent. After the reaction solution became transparent, trimethylsilylchloride(1.1 ml, 8.64 mmol) was slowly added thereto at room temperature. After 1 hour, 2-naphthalenesulfonylchloride(1.08 g, 4.75 mmol) was added and the resulting mixture was stirred for 24 hours. To this mixture was added 3N HCl solution, which was then stirred for about 2 hours. The organic layer was separated, the aqueous layer was extracted with methylene chloride, and the organic layers were combined. The combined organic layer was dried over Na2SO4 and the organic solvent was removed by distillation under reduced pressure. The resulting residue was recrystallized from toluene to give 1.29 g(Yield 79%) of the title compound as a white solid.

reactant | Methyltyrosinate | 4.32 mmol, 1 g | CN[C@@H](CC1=CC=C(C=C1)O)C(=O)[O-]
reactant | pyridine | 17.28 mmol, 1.4 ml | N1=CC=CC=C1 | C5H5N
reactant | trimethylsilylchloride | 8.64 mmol, 1.1 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2-naphthalenesulfonylchloride | 4.75 mmol, 1.08 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | HCl | 3N | Cl | ClH
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | methyl-(S)-2-(2-naphthalenesulfonylamino)-3-(4-hydroxyphenyl)propionate | 1.29 g, Yield 79% | COC([C@H](CC1=CC=C(C=C1)O)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O | C20H19NO5S
